* C:\Users\guill\Programmes\LELEC1101-31\Ressources\allBlocks\arthursinus.asc
V1 N001 0 PWL(0 -1.4 5m 1.4)
R1 N004 N001 8.25k
R2 N004 N007 54k
R3 N004 N006 3.3k
R4 N002 N001 3.3k
D1 N007 N001 D
D2 N003 N002 D
D3 N004 N003 D
D4 N001 N007 D
D5 N005 N006 D
D6 N001 N005 D
V2 Vcc 0 15
V3 Vee 0 -15
XU1 0 N004 Vcc Vee N008 TL084
R5 N008 N004 53k
V4 NC_01 0 SINE(0 1.4 1k 0 0 180)
V5 NC_02 0 PULSE(-1.4 1.4 1n 5m 5m 0 10m)
.model D D
.lib C:\Users\guill\Documents\LTspiceXVII\lib\cmp\standard.dio
.include TL084.lib
.tran 5m
* 1k 6.4k 220
.backanno
.end
